US08071595B2
To a stirred −78° C. solution of 2-methylbut-3-yn-2-ol (6.1 mL, 63.5 mmol, 1.2 eq) in dry THF (250 mL), n-BuLi (62 mL, 2.3 M in hexane, 142 mmol, 2.7 eq) was added dropwise over 10 minutes under an inert atmosphere. After being stirred for 40 min at −78° C., a solution of 4-nitrobenzaldehyde (8 g, 52.9 mmol, 1 eq) in dry THF (50 mL) was added to the reaction mixture and stirring was continued for an additional 1 h at −78° C. The reaction mixture was then quenched with a saturated NH4Cl solution and extracted with EtOAc (2×200 mL). The combined organic layers were washed with water (200 mL) and brine (100 mL), dried over Na2SO4, filtered, and concentrated in vacuo. The resulting residue was purified by column chromatography (30% ethyl acetate in hexanes) to afford 4-methyl-1-(4-nitrophenyl)pent-2-yne-1,4-diol (8 g, 65%) as a yellow solid.

reactant | 2-methylbut-3-yn-2-ol | 63.5 mmol, 6.1 mL, 1.2 eq | CC(C)(C#C)O | C5H8O
reactant | n-BuLi | 142 mmol, 2.3 M, 62 mL, 2.7 eq | [Li]CCCC
reactant | 4-nitrobenzaldehyde | 52.9 mmol, 8 g, 1 eq | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
solvent | THF | 250 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 4-methyl-1-(4-nitrophenyl)pent-2-yne-1,4-diol | 8 g, 65% | CC(C#CC(O)C1=CC=C(C=C1)[N+](=O)[O-])(C)O | C12H13NO4
